data/mechanisms/records/IMS8-EQT8.2i.json
{"mechanism_id": "IMS8-EQT8.2i", "species": [{"species_id": "methanethiol_radical_cation", "mapped_smiles": "[CH2:1]([1H:4])[SH+:2]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "thioformaldehyde_H_cation", "mapped_smiles": "[CH2:1]=[SH+:2]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "hydrogen_atom", "mapped_smiles": "[1H:4]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["methanethiol_radical_cation"]}, {"state_id": "state_products", "species_ids": ["thioformaldehyde_H_cation", "hydrogen_atom"]}], "steps": [{"step_id": "step_rd_displacement", "from_state": "state_precursor", "to_state": "state_products", "step_class": "radical_site_displacement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [2]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 4]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rd_displacement", "support_type": "textbook_proposed", "locator": {"page": 166, "equation": "Table 8.2", "figure": null, "panel": null, "section": "8.3"}, "confidence": 0.75, "curator_note": "Table 8.2, row 7: OE+. radical-site displacement 'rd' (radical site drives new pi-bond formation with expulsion of D.). Book draws ~3 fishhooks (S-radical odd electron -> forming C=S pi; one C-H electron -> that pi; the other C-H electron -> departing H.), plus a stylistic connecting loop; all 3 electron-flow moves encoded. Printed example methanethiol CH3-S(+.)-H -> H2C=S(+)H (m/z 47, monoisotopic 46.9950) + .H. Mechanistically an alpha-type pi-forming radical cleavage; the book classifies it 'rd', distinct from its alpha row. No m/z / intensity printed."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 48.0028, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_CH2SH", "species_id": "thioformaldehyde_H_cation", "step_id": "step_rd_displacement", "observed_mz": 46.995, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
